US08026372B2
H-Lys(Z)-OH
A solution of benzyl chloroformate (7.3 mL, 51.9 mmol) in THF (70 mL) was treated with benzotriazole (6.1 g, 51.2 mmol) and dimethylaminopyridine (83 mg, 0.68 mmol). The mixture was stirred at room temperature for 4 hours, while maintaining pH 10 with aqueous sodium hydroxide, and a thin suspension was obtained. This mixture was slowly poured, stirring at 0° C. and maintaining pH 12 with aqueous sodium hydroxide, into a solution of L-lysine (5.0 g, 34.2 mmol) in water (75 mL) at pH 12. After adding further 50 mL of THF and 50 mL of water, the reaction mixture was stirred overnight, then partly concentrated under vacuum and treated with hydrochloric acid to pH 5.6. The suspension was filtered and the residue washed 3 times with chloroform. The product (7.3 g, 76%) is the expected H-Lys(Z)-OH (1H-NMR, 13C-NMR, ESI-MS).

reactant | benzyl chloroformate | 51.9 mmol, 7.3 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzotriazole | 51.2 mmol, 6.1 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | dimethylaminopyridine | 0.68 mmol, 83 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | L-lysine | 34.2 mmol, 5.0 g | N[C@@H](CCCCN)C(=O)O | C6H14N2O2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | water | 75 mL | O | H2O
solvent | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | H-Lys(Z)-OH | N[C@@H](CCCCNC(=O)OCC1=CC=CC=C1)C(=O)O | C14H20N2O4
